US07994185B2
Step B: 1,1-dimethylethyl 4-(5-(2-amino-4-pyrimidinyl)-4-{2-fluoro-3-[(3-furanylsulfonyl)amino]phenyl}-1,3-thiazol-2-yl)-4-methyl-1-piperidinecarboxylate
A suspension of 1,1-dimethylethyl 4-(5-(2-chloro-4-pyrimidinyl)-4-{2-fluoro-3-[(3-furanylsulfonyl)amino]phenyl}-1,3-thiazol-2-yl)-4-methyl-1-piperidinecarboxylate (65 mg, 0.103 mmol) in ammonium hydroxide solution (28%, 2 mL, 51.4 mmol) sealed in a 5-mL microwave tube was heated at 90° C. for 3 h under the microwave conditions. The mixture was concentrated and dried under high vacuum to the title compound (64 mg). MS (ESI): 558.6 [M+1-56]+.

reactant | 1,1-dimethylethyl 4-(5-(2-chloro-4-pyrimidinyl)-4-{2-fluoro-3-[(3-furanylsulfonyl)amino]phenyl}-1,3-thiazol-2-yl)-4-methyl-1-piperidinecarboxylate | 0.103 mmol, 65 mg | ClC1=NC=CC(=N1)C1=C(N=C(S1)C1(CCN(CC1)C(=O)OC(C)(C)C)C)C1=C(C(=CC=C1)NS(=O)(=O)C1=COC=C1)F | C28H29ClFN5O5S2
reactant | ammonium hydroxide | 51.4 mmol, 2 mL | [OH-].[NH4+]
product | 1,1-dimethylethyl 4-(5-(2-amino-4-pyrimidinyl)-4-{2-fluoro-3-[(3-furanylsulfonyl)amino]phenyl}-1,3-thiazol-2-yl)-4-methyl-1-piperidinecarboxylate | NC1=NC=CC(=N1)C1=C(N=C(S1)C1(CCN(CC1)C(=O)OC(C)(C)C)C)C1=C(C(=CC=C1)NS(=O)(=O)C1=COC=C1)F | C28H31FN6O5S2
